US04213960
Cetyl alcohol:
Oxyethyleneated cetyl alcohol containing 10 moles of ethylene oxide, sold under the name BRIJ 56 by Messrs. ATLAS: 12 g

reactant | ethylene oxide | C1CO1 | C2H4O
reactant | BRIJ 56 | CCCCCCCCCCCCCCCCOCCOC | C19H40O2
product | Cetyl alcohol | C(CCCCCCCCCCCCCCC)O | C16H34O
